US04581456
To 4.075 liters of 85% phosphoric acid at 60° C. in a 22 liter flask equipped with a condenser, thermometer, and stirrer was added portionwise 1.015 kg (4.35 mol) of 4-(3-methoxyphenyl)-1-methyl-4-piperidinol via a powder funnel. The reaction mixture was stirred for 3 hours at a temperature between 70° C. and 80° C. whereupon 4 liters of water was added and the temperature of the reaction mixture adjusted to approximately 50° C. The mixture was neutralized to pH 8.5 by the addition of 8.5 liters of 28% ammonium hydroxide while maintaining the temperature of the reaction mixture above 50° C. The resulting aqueous solution was extracted at 60° C. with 1.25 liters of hexane three times. The organic extracts were combined and washed twice with 1 liter of water, once with 0.5 liters of saturated sodium chloride solution and dried over 250 g of anhydrous sodium sulfate. Evaporation of the volatiles under reduced pressure provided 862.5 g of 97.9% pure 1,2,3,6-tetrahydro-4-(3-methoxyphenyl)-1-methylpyridine.

reactant | phosphoric acid | 4.075 liters | P(O)(O)(O)=O | H3O4P
reactant | 4-(3-methoxyphenyl)-1-methyl-4-piperidinol | 4.35 mol, 1.015 kg | COC=1C=C(C=CC1)C1(CCN(CC1)C)O | C13H19NO2
reactant | ammonium hydroxide | 8.5 liters | [OH-].[NH4+]
solvent | water | 4 liters | O | H2O
product | 1,2,3,6-tetrahydro-4-(3-methoxyphenyl)-1-methylpyridine | 862.5 g, 97.9% | COC=1C=C(C=CC1)C=1CCN(CC1)C | C13H17NO
